US07871998B2
N-[(4-{(2R,3R)-3-[(2-hydroxy-2-phenylethyl)thio]-4-oxo-1-phenylazetidin-2-yl}phenoxy)acetyl]glycyl-D-valine
[4-((2R,3R)-3-{[(5,5-Dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-4-oxo-1-phenylazetidin-2-yl)phenoxy]acetic acid (12.6 mg, 0.024 mmol) and N-methylmorpholine (15 μl, 0.14 mmol) were dissolved in DCM (2 ml). Additional DCM (2 ml), N-methylmorpholine (20 μl, 0.18 mmol) and tert-butyl glycyl-D-valinate hydrochloride, (9.0 mg, 0.034 mmol) were added after 0.5 h and the mixture was stirred for 10 minutes. TBTU (10.5 mg, 0.033 mmol) was added and the mixture was stirred overnight. The formation of the ester was confirmed. M/z: 746.1. The solvent was removed under reduced pressure and the residue was purified with preparative HPLC on a C8 column. A gradient from 20% to 50% MeCN in 0.1 M ammonium acetate buffer was used as eluent. After lyophilisation, the obtained compound was dissolved in DCM (2 ml) and TFA (1 ml) was added. The reaction mixture was stirred for 2.5 h. The hydrolysis of the ester was confirmed. M/z: 604.2. The solvent was removed under reduced pressure. Co-evaporation with toluene was performed to assist the removal of TFA. The residue was dissolved in methanol (2 ml) and sodium borohydride (9.2 mg, 0.24 mmol) was added. After 15 minutes, the solvent was evaporated off and the residue was purified with preparative HPLC on a C8 column. A gradient from 20% to 50% MeCN in 0.1 M ammonium acetate buffer was used as eluent. After lyophilisation, the title compound was obtained as a white solid was (4.0 mg, 28%). H-NMR (400 MHz, DMSO-d6): 0.78 (d, 6H), 1.95-2.04 (m, 1H), 2.83-2.97 (m, 2H), 3.76 (d, 2H), 3.89-3.95 (m, 1H), 4.26 (d, 0.5H), 4.30 (d, 0.5H), 4.51 (s, 2H), 4.67-4.75 (m, 1H), 5.01 (d, 0.5H), 5.03 (d, 0.5H), 6.98 (d, 2H), 7.03 (t, 1H), 7.17-7.22 (m, 3H), 7.23-7.32 (m, 6H), 7.36 (d, 2H), 7.55-7.65 (m, 1H), 8.29 (t, 1H). M/z: 603.96 (M−H).

reactant | [4-((2R,3R)-3-{[(5,5-Dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-4-oxo-1-phenylazetidin-2-yl)phenoxy]acetic acid | 0.024 mmol, 12.6 mg | CC1(COC(OC1)(C1=CC=CC=C1)CS[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=CC=C(OCC(=O)O)C=C1)C | C30H31NO6S
reactant | N-methylmorpholine | 0.14 mmol, 15 μl | CN1CCOCC1 | C5H11NO
reactant | N-methylmorpholine | 0.18 mmol, 20 μl | CN1CCOCC1 | C5H11NO
reactant | tert-butyl glycyl-D-valinate hydrochloride | 0.034 mmol, 9.0 mg | Cl.NCC(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C
reactant | TBTU | 0.033 mmol, 10.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | sodium borohydride | 0.24 mmol, 9.2 mg | [BH4-].[Na+]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-{(2R,3R)-3-[(2-hydroxy-2-phenylethyl)thio]-4-oxo-1-phenylazetidin-2-yl}phenoxy)acetyl]glycyl-D-valine | OC(CS[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)C)C(=O)O)C=C1)C1=CC=CC=C1 | C32H35N3O7S
